US06780996B2
Following the procedure of Example 19, 4-({3-chloro-4-[(1-methyl-1H-imidazol-2-yl)sulfanyl]phenyl}amino)-7-fluoro-6-(2-methoxyethoxy)-3-quinolinecarbonitrile (300 mg, 0.62 mmol) and 2 mL of 3-dimethylamino-1-propanol provides 115 mg of 4-({3-chloro-4-[(1-methyl-1H-imidazol-2-yl)sulfanyl]phenyl}amino)-7-[3-(dimethylamino)propoxy]-6-(2-methoxyethoxy)-3-quinolinecarbonitrile, mp 194-203° C.

reactant | 4-({3-chloro-4-[(1-methyl-1H-imidazol-2-yl)sulfanyl]phenyl}amino)-7-fluoro-6-(2-methoxyethoxy)-3-quinolinecarbonitrile | 0.62 mmol, 300 mg | ClC=1C=C(C=CC1SC=1N(C=CN1)C)NC1=C(C=NC2=CC(=C(C=C12)OCCOC)F)C#N | C23H19ClFN5O2S
reactant | 3-dimethylamino-1-propanol | 2 mL | CN(CCCO)C | C5H13NO
product | 4-({3-chloro-4-[(1-methyl-1H-imidazol-2-yl)sulfanyl]phenyl}amino)-7-[3-(dimethylamino)propoxy]-6-(2-methoxyethoxy)-3-quinolinecarbonitrile | 115 mg | ClC=1C=C(C=CC1SC=1N(C=CN1)C)NC1=C(C=NC2=CC(=C(C=C12)OCCOC)OCCCN(C)C)C#N | C28H31ClN6O3S
